US07855193B2
1-(benzofuran-5-yl)piperidine (Step 1 of Scheme 3)
5-bromobenzofuran (2 g, 10 mmol), piperidine (1.2 mL, 12 mmol), Pd(dppf)Cl2 (245 mg, 0.3 mmol), dppf(250 mg, 0.45 mmol) and sodium tert-butoxide (1.44 g, 15 mmol) was mixed in toluene (10 mL). The mixture was purged with N2 gas for 3-5 min and heated at 120° C. for 30 min under microwave irradiation (Personal Chemistry Emrys™ Optimizer microwave reactor). Upon completion of the reaction, the reaction mixture was directly loaded on silica gel column and purified on ISCO system (<2% EtOAc in hexanes) to give 0.539 g desired product (27% yield): ESI-MS: 202.3 (M+H)+, 1H NMR (400 MHz, CDCl3) δ 7.58 (s, 1H), 7.40 (d, 1H), 7.15 (s, 1H), 7.00 (d, 1H), 6.65 (s, 1H), 3.10 (m, 4H), 1.70 (m, 4H), 1.48 (m, 2H). Note: the title compound appeared to be very volatile. The evaporation of solvent should be carried out very carefully.

reactant | 5-bromobenzofuran | 10 mmol, 2 g | BrC=1C=CC2=C(C=CO2)C1 | C8H5BrO
reactant | piperidine | 12 mmol, 1.2 mL | N1CCCCC1 | C5H11N
reactant | sodium tert-butoxide | 15 mmol, 1.44 g | CC(C)([O-])C.[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dppf)Cl2 | 0.3 mmol, 245 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.45 mmol, 250 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1-(benzofuran-5-yl)piperidine | 0.539 g, 27% yield | O1C=CC2=C1C=CC(=C2)N2CCCCC2 | C13H15NO
